US06903118B1
b) 2-[4-(tert-butoxycarbonyl)-piperazin-1-yl]-ethylamine
Batch size: 42.2 g (120 mmol) 2-{2-[4-(tert-butoxycarbonyl)-piperazin-1-yl]-ethyl}-isoindolin-1,3-dione and 11.6 ml (240 mmol) hydrazine-hydrate in 450 ml ethanol.

reactant | 2-{2-[4-(tert-butoxycarbonyl)-piperazin-1-yl]-ethyl}-isoindolin-1,3-dione | 120 mmol, 42.2 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C19H25N3O4
reactant | hydrazine-hydrate | 240 mmol, 11.6 ml | O.NN
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 2-[4-(tert-butoxycarbonyl)-piperazin-1-yl]-ethylamine | C(C)(C)(C)OC(=O)N1CCN(CC1)CCN | C11H23N3O2
